US08426432B2
2,4-Diamino-5-iodo-6-methylpyrimidine (250 mg) was allowed to react with 1-(3,4,5-Trimethoxyphenyl)prop-2-yn-1-ol (444 mg) as per the general procedure to afford 3-(2,4-Diamino-6-methylpyrimidin-5-yl)-1-(3,4,5-trimethoxyphenyl) prop-2-yn-1-ol as a yellow powder (275 mg, 80%): Rf=0.12 (9:1, CHCl3:MeOH); mp=174-176° C.; 1H NMR (DMSO-d6) δ 6.85 (s, 2H), 6.27 (s, 2H), 5.98 (d, J) 5.6 Hz, 1H), 5.53 (d, J) 5.4 Hz, 1H), 3.78 (s, 6H), 3.65 (s, 3H), 2.19 (s, 3H), 1.51 (d, J) 7.1 Hz, 3H); 13C NMR (DMSO-d6) δ 167.1, 164.3, 161.2, 152.7, 138.3, 136.7, 103.7, 99.1, 87.9, 79.5, 63.6, 60.0, 55.8, 22.5; HRFAB[M+Li]351.1638 (calculated C17H20N4O4Li: 351.1645).

reactant | 2,4-Diamino-5-iodo-6-methylpyrimidine | 250 mg | NC1=NC(=C(C(=N1)N)I)C | C5H7IN4
reactant | 1-(3,4,5-Trimethoxyphenyl)prop-2-yn-1-ol | 444 mg | COC=1C=C(C=C(C1OC)OC)C(C#C)O | C12H14O4
product | 3-(2,4-Diamino-6-methylpyrimidin-5-yl)-1-(3,4,5-trimethoxyphenyl) prop-2-yn-1-ol | 275 mg, 80% | NC1=NC(=C(C(=N1)N)C#CC(O)C1=CC(=C(C(=C1)OC)OC)OC)C | C17H20N4O4
